US03954440
α-(2,2,2-trichloroethyl)-3,5-dichlorostyrene (10.0 grams, 0.033 mole) was mixed with 75 ml. of glacial acetic acid and 10 drops of concentrated sulfuric acid and 16.5 ml. of 40% peracetic acid were added thereto. The resulting reaction mixture was heated at about 60° C., with stirring, for a period of about 72 hours. The reaction mixture was subsequently diluted with 200 ml. of water and 200 ml. of methylene chloride. The organic layer of the resulting mixture was separated and washed successively with 2-100 ml. portions of water, 2-100 ml. portions of a 10% sodium carbonate solution, 100 ml. portion of a 5% sodium bisulfite solution and another 100 ml. portion of water. The organic layer of the resulting mixture was separated therefrom, dried over sodium sulfate and the solvent removed in vacuo. The residual oil thus obtained was dissolved in about 75 ml. of methanol and 0.3 gram of p-toluenesulfonic acid were added thereto. The resulting mixture was heated under reflux conditions for a period of about 11 hours and then cooled and diluted with 200 ml. of water and 200 ml. of methylene chloride. The organic layer of the resulting mixture was separated, dried over sodium sulfate. The solvent was removed in vacuo to obtain the desired 4,4,4-trichloro-2-(3,5-dichlorophenyl)-2-hydroxybutanol product as a clear oily liquid.

reactant | α-(2,2,2-trichloroethyl)-3,5-dichlorostyrene | 0.033 mole, 10.0 grams | ClC(CC(=C)C1=CC(=CC(=C1)Cl)Cl)(Cl)Cl | C10H7Cl5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | p-toluenesulfonic acid | 0.3 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 4,4,4-trichloro-2-(3,5-dichlorophenyl)-2-hydroxybutanol | ClC(CC(CO)(O)C1=CC(=CC(=C1)Cl)Cl)(Cl)Cl | C10H9Cl5O2
